### PR TITLE
feat: lemmas for independent increments for naturals

### PR DESCRIPTION
**Pull request by jvanwinden**
This PR adds the lemmas `HasIndepIncrements.increments_nat` and `HasIndepIncrements.iff_increments_nat`, which allow to use functions on the naturals instead of the (sometimes annoying) `Fin n`.

Using these lemmas, the proof of `indepFun_sub_sub` has been simplified.

### CODE REVIEW

File: BrownianMotion/Gaussian/BrownianMotion.lean [hunk 1]
```diff
@@ -140,16 +170,11 @@ lemma incrementsToRestrict_increments_ofFin'_ae_eq_restrict [LinearOrder T] (R :
...
-    any_goals assumption
-    any_goals contradiction
-    exact hrs.trans hst
-  have h' : (0 : Fin (1 + 1)) ≠ (1 : Fin (1 + 1)) := by simp
-  simpa using (h 2 τ hτ).indepFun h'
+  let τ' : ℕ → T
+    | 0 => r
+    | 1 => s
+    | _ => t
+  refine h.increments_nat τ' (fun _ ↦ by grind)|>.indepFun (by norm_num : 0 ≠ 1)
```
Comment (CoolRmal) [inline BrownianMotion/Gaussian/BrownianMotion.lean]:
```suggestion
  exact h.increments_nat τ' (fun _ ↦ by grind)|>.indepFun (by norm_num : 0 ≠ 1)
```
I think this is the convention, as `refine` literally means you need further modifications/improvement but here your goal is already solved.
